US05080827
(S)-1-hydroxy-2-tetrahydropyranyloxypropane (120 g, 0.75 mol) was dropwise added to sodium hydride (44.8 g, 1.87 mol) in THF (400 ml), followed by adding DMF (200 ml), agitating the mixture for 2 hours, dropwise adding to the mixture, butyl bromide (112.4 g, 0.82 mol) at 30° C. or lower, agitating the mixture at room temperature for 6 hours, adding toluene, sufficiently agitating the mixture, washing the resulting organic layer with 2N-NaOH aqueous solution and then with water, drying it over anhydrous magnesium sulfate, distilling off toluene, adding to the resulting oily residue, pyridium p-toluenesulfonate (18 g) and ethanol (500 ml), heating the mixture at 70° C. for one hour, distilling off ethanol, adding toluene to the residue, sufficiently washing the mixture with water, distilling off toluene and distilling the residue to obtain (S)-1-butyloxy-2-hydroxypropane (79.3 g) (b.p. 87° C./35 mmHg) (αD24 =+3.6 (l=1.0 dm neat)).

reactant | (S)-1-hydroxy-2-tetrahydropyranyloxypropane | 0.75 mol, 120 g | OC[C@H](C)OC1OCCCC1 | C8H16O3
reactant | sodium hydride | 1.87 mol, 44.8 g | [H-].[Na+]
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | butyl bromide | 0.82 mol, 112.4 g | C(CCC)Br | C4H9Br
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-1-butyloxy-2-hydroxypropane | 79.3 g | C(CCC)OC[C@H](C)O | C7H16O2
